US06503937B1
A) (2,3-Dioxo-2,3-dihydro-indol-1-yl)-acetic acid tert-butyl ester
44.1 g (0.3 mol) of isatin, 62.5 g (0.45 mol) of potassium carbonate and 66.2 g (0.34 mol) of bromoacetic acid tert-butyl ester (from Aldrich) are stirred in 100 ml of N,N′-dimethylformamide at room temperature for 24 hours. The mixture is then poured into 800 ml of water, and the precipitate formed is filtered off, washed with water and dried at 60° C. After recrystallising once from toluene-hexane (1:1), 608 g (78% of theory) of product having a melting point of 119-121° C. are obtained.

reactant | isatin | 0.3 mol, 44.1 g | N1C(=O)C(=O)C2=CC=CC=C12 | C8H5NO2
reactant | potassium carbonate | 0.45 mol, 62.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetic acid tert-butyl ester | 0.34 mol, 66.2 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | water | 800 ml | O | H2O
solvent | N,N′-dimethylformamide | 100 ml | CN(C)C=O | C3H7NO
product | (2,3-Dioxo-2,3-dihydro-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(C(C2=CC=CC=C12)=O)=O)=O | C14H15NO4
